US20010027196A1
5-Bromo-4-furan-2-yl-6-(pyridin-2-ylmethoxy)-pyrimidin-2-yl-amine
From 5-bromo -4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl amine, 2-(hydroxymethyl)pyridine and DBU in dioxane. 349 (M{81Br}+H+, 98), 347 (M{79Br}+H+, 100).

reactant | 5-bromo -4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl amine | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | 2-(hydroxymethyl)pyridine | OCC1=NC=CC=C1 | C6H7NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Bromo-4-furan-2-yl-6-(pyridin-2-ylmethoxy)-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1OCC1=NC=CC=C1)N)C=1OC=CC1 | C14H11BrN4O2
